*$
* OPA140
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA140
* Date: 08JAN2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS498C –JULY 2010–REVISED AUGUST 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* Updated with unique subckt name, vos drift, inoise and edits in claw block
*
* Final 1.2 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPA140 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=100e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e12 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e12 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
XV_OS N035 N041 VOS_DRIFT_OPA140
R1 N038 N036 R_NOISELESS 1e-3 
R2 N047 ESDn R_NOISELESS 1e-3 
R3 N070 0 R_NOISELESS 1e12 
C1 N070 0 1
R4 VCC_B N069 R_NOISELESS 1e-3 
C2 N069 0 1e-15
C3 N071 0 1e-15
R5 N071 VEE_B R_NOISELESS 1e-3 
G1 N038 N039 N007 N006 1e-3
R6 MID N045 R_NOISELESS 1e12 
VCM_MIN N046 VEE_B -0.1
R7 N046 MID R_NOISELESS 1e12 
VCM_MAX N045 VCC_B -3.5
XVCM_CLAMP N039 MID N042 MID N045 N046 VCCS_EXT_LIM_OPA140
R8 N042 MID R_NOISELESS 1
C4 N043 MID 1e-15
R9 N042 N043 R_NOISELESS 1e-3 
V4 N065 OUT 0
R10 MID N048 R_NOISELESS 1e12 
R11 MID N049 R_NOISELESS 1e12 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPA140
XIQn MID VIMON MID VEE VCCS_LIM_IQ_OPA140
R12 VCC_B N012 R_NOISELESS 1e3 
R13 N025 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N012 VCC_B VCCS_LIM_CLAWp_OPA140
XCLAWn MID VIMON VEE_B N025 VCCS_LIM_CLAWn_OPA140
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N013 N012 R_NOISELESS 1e-3 
R17 N026 N025 R_NOISELESS 1e-3 
C5 MID N013 1e-15
C6 N026 MID 1e-15
R18 VOUT_S N049 R_NOISELESS 100 
C7 VOUT_S MID 1e-12
G2 MID VCC_CLP N013 MID 1e-3
G3 MID VEE_CLP N026 MID 1e-3
XCL_AMP N010 N037 VIMON MID N016 N023 CLAMP_AMP_LO_OPA140
V_ISCp N010 MID 36
V_ISCn N037 MID -30
XOL_SENSE_OPA140 MID N074 N073 N076 OL_SENSE_OPA140
R19 N037 MID R_NOISELESS 1e12 
R20 N023 MID R_NOISELESS 1 
C8 N024 MID 1e-15
R21 MID N016 R_NOISELESS 1 
R22 MID N010 R_NOISELESS 1e12 
C9 MID N017 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N014 N021 CLAMP_AMP_LO_OPA140
R23 VEE_CLP MID R_NOISELESS 1e12 
R24 N021 MID R_NOISELESS 1 
C10 N022 MID 1e-15
R25 MID N014 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e12 
C11 MID N015 1e-15
XCL_SRC N017 N024 CL_CLAMP MID VCCS_LIM_4_OPA140
XCLAW_SRC N015 N022 CLAW_CLAMP MID VCCS_LIM_3_OPA140
R27 N014 N015 R_NOISELESS 1e-3 
R28 N022 N021 R_NOISELESS 1e-3 
R29 N016 N017 R_NOISELESS 1e-3 
R30 N024 N023 R_NOISELESS 1e-3 
R31 N074 MID R_NOISELESS 1 
R32 N074 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-12
R33 VIMON N048 R_NOISELESS 100 
C13 VIMON MID 1e-12
C_DIFF ESDp ESDn 10e-12
C_CMn ESDn MID 7e-12
C_CMp MID ESDp 7e-12
I_Q VCC VEE 1.8e-3
I_B N041 MID 0.5e-12
I_OS ESDn MID 1e-15
R34 IN+ ESDp R_NOISELESS 10e-3 
R35 IN- ESDn R_NOISELESS 10e-3 
R36 N033 MID R_NOISELESS 1 
R37 N040 MID R_NOISELESS 1e12 
R38 MID N019 R_NOISELESS 1 
R39 MID N011 R_NOISELESS 1e12 
XGR_AMP N011 N040 N018 MID N019 N033 CLAMP_AMP_HI_OPA140
XGR_SRC N020 N034 CLAMP MID VCCS_LIM_GR_OPA140
C17 MID N020 1e-15
C18 N034 MID 1e-15
V_GRn N040 MID -112
V_GRp N011 MID 112
R40 N019 N020 R_NOISELESS 1e-3 
R41 N034 N033 R_NOISELESS 1e-3 
R42 VSENSE N018 R_NOISELESS 1e-3 
C19 MID N018 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G5 N035 N036 N009 MID 1e-3
G8 MID CLAW_CLAMP N054 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N068 VCLP R_NOISELESS 100 
C24 MID VCLP 1e-12
E4 N068 MID CL_CLAMP MID 1
E5 N049 MID OUT MID 1
H1 N048 MID V4 1e3
S1 N056 N055 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1T 
R53 ESDn MID R_NOISELESS 1T 
R58 N036 N035 R_NOISELESS 1e3 
R59 N069 N070 R_NOISELESS 1e6 
R60 N070 N071 R_NOISELESS 1e6 
R67 N039 N038 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N032 VCLP 12
V_ORn N027 VCLP -12
V11 N029 N028 0
V12 N030 N031 0
H2 N072 MID V11 -1
H3 N075 MID V12 1
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N070 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1 
R89 VEE_B 0 R_NOISELESS 1 
S8 N030 CLAMP CLAMP N030 OR_SW
S9 CLAMP N029 N029 CLAMP OR_SW
Xe_n ESDp N041 VNSE_OPA140
Xi_nn ESDn MID FEMT_OPA140
Xi_np N041 MID FEMT_OPA140
XVCCS_LIMIT_1 N043 N047 MID N044 VCCS_LIM_1_OPA140
XVCCS_LIMIT_2 N044 MID MID CLAMP VCCS_LIM_2_OPA140
R44 N044 MID R_NOISELESS 1e6 
R68 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 4.61e-8
G10 MID N028 N027 MID 1
R73 N028 MID R_NOISELESS 1 
G11 MID N031 N032 MID 1
R74 N031 MID R_NOISELESS 1 
R72 N073 N072 R_NOISELESS 100
R75 N075 N076 R_NOISELESS 100
C27 N073 MID 1e-12
C28 N076 MID 1e-12
XVCCS_LIM_ZO_OPA140 N063 MID MID N064 VCCS_LIM_ZO_OPA140
Rx N065 N064 R_NOISELESS 2e5
Rdummy N065 MID R_NOISELESS 2e4
G4 MID N055 CL_CLAMP N065 90.9091
Rdc1 N055 MID R_NOISELESS 1
R61 N055 N056 R_NOISELESS 1e4
R62 N056 MID R_NOISELESS 39.5497
G6 MID N058 N056 MID 253.846
C21 N056 N055 4.989e-6
R63 N062 N063 R_NOISELESS 1e4
R65 N063 MID R_NOISELESS 55.3042
C26 N063 N062 2.894e-14
R66 N064 MID R_NOISELESS 1
R70 N062 MID R_NOISELESS 1
R71 N058 MID R_NOISELESS 1
R76 N058 N059 R_NOISELESS 31666.7
R77 N059 N066 R_NOISELESS 1e4
C29 MID N066 6.366e-12
Gb1 MID N060 N059 MID 1
R78 N060 MID R_NOISELESS 1
R79 N060 N061 R_NOISELESS 3432.84
R80 N061 N067 R_NOISELESS 1e4
C30 MID N067 1.768e-13
Gb2 MID N062 N061 MID 1
R81 N052 MID R_NOISELESS 1e6
C32 N052 MID 7.96e-16
G18 MID N052 N051 MID 1e-6
R82 N053 MID R_NOISELESS 1e6
C33 N053 MID 7.96e-16
G19 MID N053 N052 MID 1e-6
R83 N054 MID R_NOISELESS 1e6
C34 N054 MID 7.96e-16
G21 MID N054 N053 MID 1e-6
R84 N050 MID R_NOISELESS 1
R85 N050 N051 R_NOISELESS 2173.91
R86 N051 N057 R_NOISELESS 1e4
C35 MID N057 1.137e-11
G22 MID N050 VSENSE MID 1
C22 N002 N001 2.273e-12
R50 N002 MID R_NOISELESS 14002
R51 N002 N001 R_NOISELESS 1e8
G7 MID N001 ESDp MID 2.01313e-3
Rsrc3 N001 MID R_NOISELESS 1
Rsrc5 N003 MID R_NOISELESS 1
C23 N004 N003 8.842e-15
R64 N004 N003 R_NOISELESS 1e8
R69 N004 MID R_NOISELESS 3.734e6
G20 MID N009 MID N004 27.7778
Rsrc6 N009 MID R_NOISELESS 1
G23 MID N003 MID N002 1
C14 N007 N008 3.003e-9
R48 N007 MID R_NOISELESS 35.3333
R49 N007 N008 R_NOISELESS 1e8
G12 MID N008 VCC_B MID 0.283019
Rsrc1 N008 MID R_NOISELESS 1
C15 N006 N005 1.224e-9
R54 N006 MID R_NOISELESS 37.1429
R55 N006 N005 R_NOISELESS 1e8
G13 MID N005 VEE_B MID 0.269231
Rsrc2 N005 MID R_NOISELESS 1
.ends OPA140
*
.subckt VOS_DRIFT_OPA140 VOS+ VOS-
.param DC = 2.64E-05
.param POL = 1
.param DRIFT = 3.50E-07
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*
.subckt CLAMP_AMP_HI_OPA140 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_OPA140
*
.subckt OL_SENSE_OPA140 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_OPA140
*
.subckt FEMT_OPA140 1 2
.param RNVF=0.75776
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends FEMT_OPA140
*
.subckt VCCS_EXT_LIM_OPA140 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_OPA140
*
.subckt VCCS_LIM_3_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.225e1
.param Ineg = -0.225e1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_OPA140
*
.subckt VCCS_LIM_4_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.450e1
.param Ineg = -0.450e1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_OPA140
*
.subckt VCCS_LIM_CLAWp_OPA140 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.123e-4)
+(14, 2e-4)
+(20.5, 2.7e-4)
+(24.8, 3.2e-4)
+(29.8, 4.3e-4)
+(33, 5.1e-4)
+(35.5, 6.3e-4)
+(36.2, 7.1e-4)
.ends VCCS_LIM_CLAWp_OPA140
*
.subckt VCCS_LIM_CLAWn_OPA140 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.122e-4)
+(24.1, 3.1e-4)
+(26.4, 3.5e-4)
+(26.7, 3.74e-4)
+(27, 4.77e-4)
+(27.5, 1.2e-3)
+(27.9, 2.3e-3)
+(30, 8e-3)
.ends VCCS_LIM_CLAWn_OPA140
*
.subckt VCCS_LIM_IQ_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_OPA140
*
.subckt VNSE_OPA140 1 2
.param FLW=0.1
.param GLF=0.0224647
.param RNV=31.4026
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_OPA140
*
.subckt CLAMP_AMP_LO_OPA140 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_OPA140
*
.subckt VCCS_LIM_GR_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 1.92e1
.param Ineg = -1.92e1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_OPA140
*
.subckt VCCS_LIM_1_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_OPA140
*
.subckt VCCS_LIM_2_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 26.86e-3
.param Ipos = 0.96
.param Ineg = -0.96
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_OPA140
*
.subckt VCCS_LIM_ZO_OPA140 VC+ VC- IOUT+ IOUT-
.param Gain = 181.818
.param Ipos = 1.44e4
.param Ineg = -1.2e4
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_ZO_OPA140
*
